US05202315
C. Preparation of 2-cyano-2-(methoxyimino)acetamidinium acetate
To a mixed solution of ammonium chloride(14.2 g) dissolved in ethanol (90 ml) and conc. ammonium hydroxide aqueous solution (178 ml) was added 2-(methoxyimino)malononitrile(29 g) at -5°~0° C., and the mixture was stirred for 10 hours at these temperatures. The reaction mixture was extracted 3 times with methylene chloride (respectively, 450 ml, 100 ml and 100 ml), dehydrated, filtered, and concentrated. The residue was dissolved in ethyl acetate, and crystalized with acetic acid to give the above-indicated compound (20.5 g) in pale brown.

reactant | ammonium chloride | 14.2 g | [Cl-].[NH4+]
reactant | ammonium hydroxide | 178 ml | [OH-].[NH4+]
reactant | 2-(methoxyimino)malononitrile | 29 g | CON=C(C#N)C#N | C4H3N3O
reactant | ethanol | 90 ml | C(C)O | C2H6O
product | 2-cyano-2-(methoxyimino)acetamidinium acetate | 20.5 g | C(C)(=O)[O-].C(#N)C(C(=[NH2+])N)=NOC | InChI=1S/C4H6N4O.C2H4O2/c1-9-8-3(2-5)4(6)7;1-2(3)4/h1H3,(H3,6,7);1H3,(H,3,4)
